US07291183B2
1e.) 4-Phenyl-3-(2-propenyl)-2(3H)-thiazolone hydrazone hydrochloride
From 4-(2-propenyl)-3-thiosemicarbazide and phenacyl chloride.

reactant | 4-(2-propenyl)-3-thiosemicarbazide | C(C=C)NC(NN)=S | C4H9N3S
reactant | phenacyl chloride | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
product | 4-Phenyl-3-(2-propenyl)-2(3H)-thiazolone hydrazone hydrochloride | Cl.C1(=CC=CC=C1)C=1N(C(SC1)=NN)CC=C | InChI=1S/C12H13N3S.ClH/c1-2-8-15-11(9-16-12(15)14-13)10-6-4-3-5-7-10;/h2-7,9H,1,8,13H2;1H
